US07795267B2
Tetrahydro-3-oxo-1,1-diphenyl-N-(5-quinolinyl)-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
To a solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.15 g, 0.51 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.19 g, 1.3 mmol) in acetonitrile (6 mL) was added 2,2,2-trichloro-N-(5-quinolinyl)acetamide (0.16 g, 0.55 mmol), and the mixture was heated under reflux for 6 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was washed twice with water, once with saturated brine, and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate), and then recrystallized from hexane-ethyl acetate to obtain the title compound (78 mg, yield 33%).

reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.51 mmol, 0.15 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.3 mmol, 0.19 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2,2,2-trichloro-N-(5-quinolinyl)acetamide | 0.55 mmol, 0.16 g | ClC(C(=O)NC1=C2C=CC=NC2=CC=C1)(Cl)Cl | C11H7Cl3N2O
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | Tetrahydro-3-oxo-1,1-diphenyl-N-(5-quinolinyl)-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 78 mg, yield 33% | O=C1OC(C2N1CCN(C2)C(=O)NC2=C1C=CC=NC1=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H24N4O3
